US04497817
To 40 ml of methyl ethyl ketone were added 2.6 g of 2-(p-hydroxyphenyl)imidazo[2,1-b]benzothiazole, 1.7 g of monobromoacetic acid ethyl ester, and 1.5 g of potassium carbonate and the mixture was refluxed overnight. After the reaction was over, the reaction mixture was cooled, insoluble materials were filtered off, and the filtrate was concentrated under reduced pressure to provide solid materials, which were recrystallized from toluene-n-hexane to provide 1.8 g of 2-(p-ethoxycarbonylmethoxyphenyl)imidazo[2,1-b]benzothiazole.

reactant | 2-(p-hydroxyphenyl)imidazo[2,1-b]benzothiazole | 2.6 g | OC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C15H10N2OS
reactant | monobromoacetic acid ethyl ester | 1.7 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
product | 2-(p-ethoxycarbonylmethoxyphenyl)imidazo[2,1-b]benzothiazole | 1.8 g | C(C)OC(=O)COC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C19H16N2O3S
